US05409928
(3) Preparation of 6-carboxy-7-hydroxy-3-[4-(2-phenylpropan-2-yl)phenyl]pyrazolo[1,5-a]pyrimidine
To a solution of 6-ethoxycarbonyl-7-hydroxy-3-[4-(2-phenylpropan-2-yl)phenyl]pyrazolo[1,5-a]pyrimidine (1.2 g) in ethanol (20 ml) was added 5N sodium hydroxide solution (3.0 ml), and the mixture was heated and refluxed for 20 hours. The solvent was distilled away under reduced pressure, and thereto was added water (100 ml) under ice-cooling. The mixture was adjusted to acid with 10% hydrochloric acid, and the precipitate was separated by filtration, washed with water to give the title compound (1.0 g, 89.6%).

reactant | 6-ethoxycarbonyl-7-hydroxy-3-[4-(2-phenylpropan-2-yl)phenyl]pyrazolo[1,5-a]pyrimidine | 1.2 g | C(C)OC(=O)C=1C=NC=2N(C1O)N=CC2C2=CC=C(C=C2)C(C)(C)C2=CC=CC=C2 | C24H23N3O3
reactant | sodium hydroxide | 5N, 3.0 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-carboxy-7-hydroxy-3-[4-(2-phenylpropan-2-yl)phenyl]pyrazolo[1,5-a]pyrimidine | 1.0 g, 89.6% | C(=O)(O)C=1C=NC=2N(C1O)N=CC2C2=CC=C(C=C2)C(C)(C)C2=CC=CC=C2 | C22H19N3O3
